US07842688B2
d) tert-Butyl 3-(4-allyloxy-3-nitrobenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
Analogously to Method D, 2.0 g of tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 1.06 g of 1-allyloxy-4-chloromethyl-2-nitrobenzene are reacted. The title compound is obtained as a slightly yellowish oil. Rf=0.31 (1:1 EtOAc-heptane); Rt=6.99.

reactant | tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 2.0 g | OC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C | C27H37NO6
reactant | 1-allyloxy-4-chloromethyl-2-nitrobenzene | 1.06 g | C(C=C)OC1=C(C=C(C=C1)CCl)[N+](=O)[O-] | C10H10ClNO3
product | tert-Butyl 3-(4-allyloxy-3-nitrobenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | C(C=C)OC1=C(C=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=C1)[N+](=O)[O-] | C37H46N2O9
